US05837708
306 mg of 4,6-dichloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidine, 320 mg of 5-isopropyl-2-pyridine-sulphonamide and 180 mg of K tert.butylate dissolved in 2 ml of DMSO were reacted at 90° C. for 3 hours. After cooling to room temperature the reaction medium was acidified with aqueous citric acid; the compound was extracted with ethyl acetate and, after distillation of the solvent, crystallized from ethanol. 250 mg of N-[6-chloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-yl]-5-isopropyl-pyridine-sulphonamide were obtained as white crystals with m.p. 174°-175° C.

reactant | 4,6-dichloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidine | 306 mg | ClC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Cl)Cl | C11H7Cl3N2O2
reactant | 5-isopropyl-2-pyridine-sulphonamide | 320 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N | C8H12N2O2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | N-[6-chloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidin-4-yl]-5-isopropyl-pyridine-sulphonamide | 250 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC(=C1)OC)Cl | C19H18Cl2N4O4S
